US04618456
17α-Ethynyl-17β-hydroxy-16β-methylandrosta-1,4,9(11)-trien-3-one (IIB)
Dry THF (5 l) is cooled to -20° and acetylene (0.27 kg) is dissolved in the THF at -20°. Diisopropylamine (880 ml) is added to the acetylene/THF solution. n-Butyllithium (1.6M, 3.88 l) is added to the mixture maintaining the temperature at -20° and stirred for 30 min. 16β-Methylandrosta-1,4,9(11)-triene-3,17-dione (IB) in (THF) is added to the reaction mixture at or below -20° and stirred for 20 min to give the title compound.

reactant | acetylene | 0.27 kg | C#C | C2H2
reactant | Diisopropylamine | 880 ml | C(C)(C)NC(C)C | C6H15N
reactant | acetylene THF | C#C.C1CCOC1
reactant | n-Butyllithium | 1.6M, 3.88 l | C(CCC)[Li]
reactant | 16β-Methylandrosta-1,4,9(11)-triene-3,17-dione | C[C@@H]1C([C@]2(C)[C@@H](C1)[C@@H]1CCC3=CC(C=C[C@]3(C)C1=CC2)=O)=O | C20H24O2
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 5 l | C1CCOC1 | C4H8O
product | 17α-Ethynyl-17β-hydroxy-16β-methylandrosta-1,4,9(11)-trien-3-one | C(#C)[C@]1([C@]2(C)[C@@H](C[C@@H]1C)[C@@H]1CCC3=CC(C=C[C@]3(C)C1=CC2)=O)O | C22H26O2
